US06835731B2
Preparation of N-Pyridin-2-ylmethyl-4-({(5,6,7,8-tetrahydro-quinolin-8-yl)-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazol-2-ylmethyl]-amino}-methyl)-benzenesulfonamide;
Using general procedure B: Reaction of N-pyridin-2-ylmethyl-4-[(5,6,7,8-tetrahydro-quinolin-8-ylamino)-methyl]-benzenesulfonamide (97 mg, 0.24 mmol), 1-(2-trimethylsilanyl-ethoxymethyl)-1 H-benzimidazole-2-carbaldehyde (72 mg, 0.26 mmol), and NaBH(OAc)3 (151 mg, 0.71 mmol) for 1 h at room temperature followed by column chromatography on silica gel (CH2Cl2/MeOH/NH4OH 98:1:1) gave the title compound (63 mg, 50%) as a white foam. 1H NMR (300 MHz, CDCl3) δ 0.00 (s, 9H), 0.77 (dd, 2H, J=7.5, 7.5 Hz), 1.73-1.74 (m, 1H), 1.95-2.06 (m, 2H), 2.20-2.25 (m, 1H), 2.66-2.86 (m, 2H), 3.29-3.35 (m, 2H), 3.78 (d, 1H, J=14.7 Hz), 3.98 (d, 1H, J=14.7 Hz), 4.05 (dd, 1H, J=9.3, 6.3 Hz), 4.13 (d, 2H, J=6.0 Hz), 4.18 (brs, 2H), 5.70 (d, 1H, J=12.0 Hz), 5.98 (d, 1H, J=12.0 Hz), 7.06-7.10 (m, 2H), 7.13-7.18 (m, 3H), 7.31-7.36 (m, 2H), 7.43 (d, 2H, J=8.1 Hz), 7.52-7.66 (m, 4H), 8.42 (d, 1H, J=4.8 Hz), 8.52 (d, 1H, J=4.5 Hz).

reactant | N-pyridin-2-ylmethyl-4-[(5,6,7,8-tetrahydro-quinolin-8-ylamino)-methyl]-benzenesulfonamide | 0.24 mmol, 97 mg | N1=C(C=CC=C1)CNS(=O)(=O)C1=CC=C(C=C1)CNC1CCCC=2C=CC=NC12 | C22H24N4O2S
reactant | 1-(2-trimethylsilanyl-ethoxymethyl)-1 H-benzimidazole-2-carbaldehyde | 0.26 mmol, 72 mg | C[Si](CCOCN1C(=NC2=C1C=CC=C2)C=O)(C)C | C14H20N2O2Si
reactant | NaBH(OAc)3 | 0.71 mmol, 151 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | N-Pyridin-2-ylmethyl-4-({(5,6,7,8-tetrahydro-quinolin-8-yl)-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazol-2-ylmethyl]-amino}-methyl)-benzenesulfonamide | 63 mg, 50% | N1=C(C=CC=C1)CNS(=O)(=O)C1=CC=C(C=C1)CN(CC1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2)C2CCCC=1C=CC=NC21 | C36H44N6O3SSi
